US06723735B1
A suspension of 1-iodo-3-nitrobenzene (24.9 g, 0.1 mol), copper bronze (320 mg, 5 mmol) and potassium carbonate (15.2 g, 0.11 mol) in 2-pyrrolidinone was heated under a stream of nitrogen at 200° C. for 45 minutes. The reaction was cooled to ambient temperature, diluted with water (2000 ml) and extracted with diethyl ether (800 ml). The organic phase was then washed with water (2×800 ml), brine and dried over anhydrous sodium sulphate containing decolourising charcoal (2 g). Filtration and evaporation to dryness gave a yellow solid which was triturated with isohexane to give 1-(3nitrophenyl)pyrrolidin-2-one as a yellow powder (3.0 g, 15%). δH (360 MHz, CDCl3) 2.19-2.27 (2H, m), 2.67 (2H, t, J 8), 3.94 (2H, t, J 7), 7.54 (1H, t, J 8), 8.00 (1H, ddd, J 8, 2 and 1), 8.22 (1H, ddd, J 8, 2 and 1), 8.35 (1H, t, J 2).

reactant | 1-iodo-3-nitrobenzene | 0.1 mol, 24.9 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
solvent | water | 2000 ml | O | H2O
catalyst | copper bronze | 5 mmol, 320 mg | [Cu] | Cu
product | 1-(3nitrophenyl)pyrrolidin-2-one | 3.0 g, 15% | [N+](=O)([O-])C=1C=C(C=CC1)N1C(CCC1)=O | C10H10N2O3
